US09120771B2
Synthesis of 3-((cyclopentyloxy)(3,4-dichlorophenyl)methyl)azetidine hydrochloride (KHG 27254)
1 N HCl (3.0 mL) was added to 10 mL of tertiary butyl 3-(1-(3,4-dichlorophenyl)-2-(methylsulfonyl)ethyl)azetidine-1-carboxylate (0.15 g, 0.36 mmol) dissolved in the methanol solution and heated to reflux at 60° C. for one day. Thereafter, the solvent of the reaction mixture was removed by reduced pressure evaporation to obtain the title compound.

reactant | HCl | 1 N, 3.0 mL | Cl | ClH
reactant | tertiary butyl 3-(1-(3,4-dichlorophenyl)-2-(methylsulfonyl)ethyl)azetidine-1-carboxylate | 0.36 mmol, 10 mL, 0.15 g | ClC=1C=C(C=CC1Cl)C(CS(=O)(=O)C)C1CN(C1)C(=O)OC(C)(C)C | C17H23Cl2NO4S
reactant | methanol | CO | CH4O
product | 3-((cyclopentyloxy)(3,4-dichlorophenyl)methyl)azetidine hydrochloride | Yield 97% | Cl.C1(CCCC1)OC(C1CNC1)C1=CC(=C(C=C1)Cl)Cl | InChI=1S/C15H19Cl2NO.ClH/c16-13-6-5-10(7-14(13)17)15(11-8-18-9-11)19-12-3-1-2-4-12;/h5-7,11-12,15,18H,1-4,8-9H2;1H
